US09422279B2
To a solution of 1-(tert-butyl) 4-ethyl 5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydropyridine-1,4(2H)-dicarboxylate (450 mg, 1.24 mmol) in THF (6 mL) was added LiAlH4 (1M in THF, 1.49 mL, 1.49 mmol) at −20° C., the reaction was stirred at −20° C. for 30 min, and was quenched with Sat. NH4Cl, the aqueous layer was extracted with EtOAc, the combined organics were washed with brine, dried and concentrated to give crude oil, which was purified by column (Hexanes/EtOAc=100:0 to 40:60) to give tert-butyl 4-(hydroxymethyl)-5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydropyridine-1(2H)-carboxylate (370 mg, 91%).

reactant | 1-(tert-butyl) 4-ethyl 5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydropyridine-1,4(2H)-dicarboxylate | 1.24 mmol, 450 mg | C(C)(C)N1N=CC=C1C1=C(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC | C19H29N3O4
reactant | LiAlH4 | 1.49 mmol, 1M, 1.49 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(hydroxymethyl)-5-(1-isopropyl-1H-pyrazol-5-yl)-3,6-dihydropyridine-1(2H)-carboxylate | 370 mg, 91% | OCC=1CCN(CC1C1=CC=NN1C(C)C)C(=O)OC(C)(C)C | C17H27N3O3
